US04336264
1-(2,6-DICHLOROBENZOYL)-3-(3-BENZISOXAZOLYL)UREA
3-Aminobenzisoxazole (300 grams) and 2,6-dichlorobenzoyl isocyanate (600 grams) in 50 ml. methylene chloride were stirred at room temperature for one hour. The solvent was then evaporated and the precipitate recrystallized from ethanol. The identity of the product was determined by NMR and IR analysis, yield 500 mg., m.p.=212°-215° C.

reactant | 3-Aminobenzisoxazole | 300 grams | NC1=NOC2=C1C=CC=C2 | C7H6N2O
reactant | 2,6-dichlorobenzoyl isocyanate | 600 grams | ClC1=C(C(=O)N=C=O)C(=CC=C1)Cl | C8H3Cl2NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(2,6-DICHLOROBENZOYL)-3-(3-BENZISOXAZOLYL)UREA | ClC1=C(C(=O)NC(=O)NC2=NOC3=C2C=CC=C3)C(=CC=C1)Cl | C15H9Cl2N3O3
